US08420640B2
A solution of 2-(benzylamino)-4-(4-benzoylpiperazin-1-yl)benzoic acid (80 mg, 0.2 mmol), 2 M methylamine THF solution (0.96 ml, 1.9 mmol), triethylamine (0.08 ml, 0.57 mmol) and diphenylphosphoryl azide (0.045 ml, 0.2 mmol) in 15 ml THF was stirred for 16 hours. The run was quenched with 1 ml water and all the solvents were evaporated under vacuum. 2-(benzylamino)-N-methyl-4-(4-benzoylpiperazin-1-yl)benzamide (30 mg, 36%) was obtained by flash column chromatograph (60% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.97 (d, 3H), 3.14-3.25 (d, br, 4H), 3.65 (s, br, 2H), 3.72 (s, br, 2H), 4.42 (d, 2H), 6.01 (d, J=2.3 Hz, 2H), 6.15 (dd, J=2.3, 8.7 Hz, 1H), 7.26-7.49 (m, 10H), 8.52 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 26.9, 47.8, 48.9, 98.3, 103.4, 107.5, 127.5, 127.6, 129.0, 129.1 130.4, 136.0, 139.7, 151.6, 154.3, 170.6, 170.9.

reactant | 2-(benzylamino)-4-(4-benzoylpiperazin-1-yl)benzoic acid | 0.2 mmol, 80 mg | C(C1=CC=CC=C1)NC1=C(C(=O)O)C=CC(=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O | C25H25N3O3
reactant | methylamine THF | 1.9 mmol, 2 M, 0.96 ml | CN.C1CCOC1
reactant | triethylamine | 0.57 mmol, 0.08 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.2 mmol, 0.045 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(benzylamino)-N-methyl-4-(4-benzoylpiperazin-1-yl)benzamide | 30 mg, 36% | C(C1=CC=CC=C1)NC1=C(C(=O)NC)C=CC(=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O | C26H28N4O2
